US09357776B2
Synthesis of N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide
In 100 ml of toluene, 10.0 g (0.106 mol) of 2-aminopyridine was dissolved. After the solution was cooled to 5° C., 11.8 ml (0.159 mol) of trifluoroacetic acid and 7.7 ml (0.106 mol) of thionyl chloride were added thereto, followed by stirring at room temperature overnight. Then, 20 ml of toluene was distilled off under reduced pressure. To the reaction liquid, 50 ml of dimethylformamide, 35.28 g (0.256 mol) of potassium carbonate powder, and 17.22 g (0.106 mol) of 2-chloro-5-chloromethylpyridine were added under ice-cooling. Then, distillation was conducted under reduced pressure (36 hPa) at 50 to 60° C. for 1 hour. To the reaction liquid, 60 ml of methanol and 50 ml of water were added, and the reaction liquid was added to 300 ml of water, while the vessel was also washed. Thirty minutes later, the crystals were filtered, and washed with 70 ml of water and 40 ml of toluene. The obtained crystals were dried under reduced pressure at 60° C. Thus, 22.31 g of the target compound was obtained (66.6%).

reactant | 2-aminopyridine | 0.106 mol, 10.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | trifluoroacetic acid | 0.159 mol, 11.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | thionyl chloride | 0.106 mol, 7.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | 0.256 mol, 35.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethylpyridine | 0.106 mol, 17.22 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | 22.31 g | ClC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9ClF3N3O
